US04772600
N-[3-(Benzoylamino)-2-pyridinyl]glycine ethyl ester
A solution of N-(3-nitro-2-pyridinyl)glycine ethyl ester (1.0 g, 0.0044 mole) in 140 ml of tetrahydrofuran was hydrogenated over 5% palladium on carbon (0.2 g) at room temperature for 4 hr. The reaction mixture was dried over magnesium sulfate and filtered through a Celite pad. To this stirred solution was added triethylamine (0.6 g, 0.0059 mole) and benzoyl chloride (0.62 g, 0.0044 mole). The reaction mixture was allowed to stir at room temperature overnight. The triethylamine hydrochloride was filtered off and the filtrate was evaporated to dryness. The residue was taken up in ether-methylene chloride solution. Sodium sulfate was added to adsorb an immiscible dark oil. The filtrate was evaporated to dryness to give a residue which was recrystallized from ether. The precipitate was collected, washed with a solution of 75% hexanes/25% ether, and dried at room temperature under high vacuum to yield 1.1 g, of title compound, m.p. 115°-16° C.

reactant | N-(3-nitro-2-pyridinyl)glycine ethyl ester | 0.0044 mole, 1.0 g | C(C)OC(CNC1=NC=CC=C1[N+](=O)[O-])=O | C9H11N3O4
reactant | triethylamine | 0.0059 mole, 0.6 g | C(C)N(CC)CC | C6H15N
reactant | benzoyl chloride | 0.0044 mole, 0.62 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | tetrahydrofuran | 140 ml | O1CCCC1 | C4H8O
catalyst | palladium on carbon | 0.2 g | [Pd] | Pd
product | N-[3-(Benzoylamino)-2-pyridinyl]glycine ethyl ester | C(C)OC(CNC1=NC=CC=C1NC(C1=CC=CC=C1)=O)=O | C16H17N3O3
